US07977358B2
A] 2-Cyclopropanecarbonyl-3-oxo-3-pyrimidin-5-yl-propionic acid ethyl ester
In analogy to the procedure described in Example 162A], 3-cyclopropyl-3-oxo-propionic acid ethyl ester and pyrimidine-5-carbonyl chloride gave the title compound as a yellow oil (40%). MS: 261.3 (M−H−).

reactant | 3-cyclopropyl-3-oxo-propionic acid ethyl ester | C(C)OC(CC(=O)C1CC1)=O | C8H12O3
reactant | pyrimidine-5-carbonyl chloride | N1=CN=CC(=C1)C(=O)Cl | C5H3ClN2O
product | 2-Cyclopropanecarbonyl-3-oxo-3-pyrimidin-5-yl-propionic acid ethyl ester | 40% | C(C)OC(C(C(C=1C=NC=NC1)=O)C(=O)C1CC1)=O | C13H14N2O4
